US08067445B2
Step 5: 2-(2′-Ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-2-methyl-propionic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 5, using the following starting materials: 2-(2′-formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-2-methyl-propionic acid ethyl ester and ethylamine (2M in THF).

reactant | 2-(2′-formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)C=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C21H21F3O4
reactant | ethylamine | 2M | C(C)N | C2H7N
product | 2-(2′-Ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)C=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C23H28F3NO3
